spice
* NMOS Transistors
M1 4 2 7 7 NMOS
M2 5 6 7 7 NMOS
M3 4 6 7 7 NMOS

* Resistors
R1_left 5 7 R1_value
R1_right 3 7 R1_value

* Voltage Source
VDD 3 0 DC VDD_value

* Models
.model NMOS NMOS